US07612075B2
A. 1-(4-Chloroquinolin-7-ylmethyl)-4-(6-chlorobenzo[b]thiophen-2-sulfonyl)-piperazin-2-one.
1-(4-chloroquinolin-7-ylmethyl)-3-(S)-methylpiperazin-2-one hydrochloride (0.49 g, 1.4 mmol), EXAMPLE 89, is treated with acetonitrile (20 mL), triethyl amine (1.2 ml, 8.4 mmol) and a solution of 6-chlorobenzo[b]thiophen-2-sulfonyl chloride (0.41 g, 1.54 mmol), EXAMPLE 1, in acetonitrile (10 mL) at 0° C. After 2 h the solution is poured into water and extracted with ethyl acetate. The organic layer is washed with water, dried over sodium sulfate and concentrated to yielded the title compound (0.45 g, 0.95 mmol). MS m/z: 506, [M+1]+; 1H NMR (CD3OD, 300 MHz) δ8.8 (d, 1H), 8.15 (d, 1H), 7.9 (d, 2H), 7.85 (s, 1H), 7.4-7.5 (m, 2H), 6.8 (s, 1H), 4.8 (s, 2H), 4.0 (s, 2H), 3.4-3.45 (m, 4H).

reactant | 1-(4-chloroquinolin-7-ylmethyl)-3-(S)-methylpiperazin-2-one hydrochloride | 1.4 mmol, 0.49 g | Cl.ClC1=CC=NC2=CC(=CC=C12)CN1C([C@@H](NCC1)C)=O
reactant | triethyl amine | 8.4 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | 6-chlorobenzo[b]thiophen-2-sulfonyl chloride | 1.54 mmol, 0.41 g | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)Cl)C1 | C8H4Cl2O2S2
reactant | water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-(4-Chloroquinolin-7-ylmethyl)-4-(6-chlorobenzo[b]thiophen-2-sulfonyl)-piperazin-2-one | 0.95 mmol, 0.45 g | ClC1=CC=NC2=CC(=CC=C12)CN1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O | C22H17Cl2N3O3S2
